US08049016B2
Synthesis of 4-methyl-2-{2-oxo-3-[4-(trifluoromethyl)benzyl]imidazolidin-1-yl}thiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 23% yield: mp 216-217° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 7.74 (d, J=8.2 Hz, 2H), 7.55 (d, J=8.2 Hz, 2H), 7.32 (s, 2H), 4.54 (s, 2H), 4.02 (dd, J=9.0, 7.3 Hz, 2H), 3.49 (dd, J=9.0, 7.3 Hz, 2H), 2.46 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.5, 157.4, 155.2, 150.7, 141.5 (d, JC-F=1.2 Hz), 128.5, 128.1 (q, 2JC-F=31.6 Hz), 125.5 (q, 3JC-F=3.8 Hz), 124.3 (q, 1JC-F=272.2 Hz), 118.5, 46.5, 42.0, 41.8, 17.0; MS (ES+) m/z 384.9 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O3S
product | 4-methyl-2-{2-oxo-3-[4-(trifluoromethyl)benzyl]imidazolidin-1-yl}thiazole-5-carboxamide | 23% yield | CC=1N=C(SC1C(=O)N)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H15F3N4O2S
